US07897607B2
1-Mesityl-6-methyl-4-[methyl(propyl)amino]-1,6-dihydro-7H-pyrrolo[2,3-d]pyridazin-7-one
A mixture of 1-mesityl-4-(propylamino)-1,6-dihydro-7H-pyrrolo[2,3-d]pyridazin-7-one (29.8 mg, 0.092 mmol), methyl iodide (0.011 ml, 0.18 mmol), potassium carbonate (25.4 mg, 0.18 mmol) and DMF (1 ml) was stirred at 60° C. for 4 hours. The mixture was diluted with water (30 ml) and extracted with ethyl acetate (30 ml). The extract was washed with water, dried over magnesium sulfate and concentrated in vacuo. A mixture of the residue, methyl iodide (0.1 ml), sodium hydride (60% in oil, 8 mg, 0.2 mmol) and DMF (2 ml) was stirred room temperature for 3 hours. The mixture was diluted with water (30 ml) and extracted with ethyl acetate (30 ml). The extract was washed with water, dried over magnesium sulfate and concentrated in vacuo. The residue was purified by silica gel chromatography eluting with hexane/ethyl acetate (10:1-5:1) to give 6.5 mg (20%) of the title compound as crystals.

reactant | 1-mesityl-4-(propylamino)-1,6-dihydro-7H-pyrrolo[2,3-d]pyridazin-7-one | 0.092 mmol, 29.8 mg | C1(=C(C(=CC(=C1)C)C)N1C=CC2=C1C(NN=C2NCCC)=O)C | C18H22N4O
reactant | methyl iodide | 0.18 mmol, 0.011 ml | CI | CH3I
reactant | potassium carbonate | 0.18 mmol, 25.4 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 0.1 ml | CI | CH3I
reactant | sodium hydride | 0.2 mmol, 8 mg | [H-].[Na+]
solvent | water | 30 ml | O | H2O
solvent | water | 30 ml | O | H2O
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 1-Mesityl-6-methyl-4-[methyl(propyl)amino]-1,6-dihydro-7H-pyrrolo[2,3-d]pyridazin-7-one | 6.5 mg, 20% | C1(=C(C(=CC(=C1)C)C)N1C=CC2=C1C(N(N=C2N(CCC)C)C)=O)C | C20H26N4O
